US07612212B2
To a stirred solution of (R)-tert-butoxycarbonylamino-[4-(2-hydroxy-ethoxy)-phenyl]-acetic acid methyl ester (80 mg, 0.25 mmol) in pyridine (1.5 mL) was added methanesulfonyl chloride (0.023 mL, 0.30 mmol) dropwise. The reaction mixture was stirred at room temperature for 3 hours. The solvent was evaporated and the crude product was purified by chromatography over silica gel eluted with 3:1 v/v hexanes/ethyl acetate to give (R)-tert-butoxycarbonylamino-[4-(2-methanesulfonyloxy-ethoxy)-phenyl]-acetic acid methyl ester (50 mg, 50% yield) as a colorless oil.

reactant | (R)-tert-butoxycarbonylamino-[4-(2-hydroxy-ethoxy)-phenyl]-acetic acid methyl ester | 0.25 mmol, 80 mg | COC([C@@H](C1=CC=C(C=C1)OCCO)NC(=O)OC(C)(C)C)=O | C16H23NO6
reactant | methanesulfonyl chloride | 0.30 mmol, 0.023 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | (R)-tert-butoxycarbonylamino-[4-(2-methanesulfonyloxy-ethoxy)-phenyl]-acetic acid methyl ester | 50 mg, 50% yield | COC([C@@H](C1=CC=C(C=C1)OCCOS(=O)(=O)C)NC(=O)OC(C)(C)C)=O | C17H25NO8S
